US07855225B2
To a solution of 0.5 g of potassium t-butoxide and 0.1 g of 18-crown-6 in 3 mL of THF, a mixed solution of 0.7 g of ethyl 1H-indole-2-carboxylate and 3 mL of THF was added, and the resulting mixture was stirred at room temperature for 30 minutes. The solution was cooled with ice, 1.13 g of 4-bromobenzenesulfonyl chloride was added, and the resulting mixture was stirred at room temperature for 5 hours. To the solution was added 60 mL of ethyl acetate, the resulting mixture was washed with water and saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-hexane=1:5) to obtain 1.44 g of ethyl 1-[(4-bromophenyl)sulfonyl]-1H-indole-2-carboxylate as a pale yellow syrup. FAB+: 408, 410

reactant | potassium t-butoxide | 0.5 g | CC(C)([O-])C.[K+]
reactant | 18-crown-6 | 0.1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | ethyl 1H-indole-2-carboxylate | 0.7 g | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
reactant | 4-bromobenzenesulfonyl chloride | 1.13 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 1-[(4-bromophenyl)sulfonyl]-1H-indole-2-carboxylate | 1.44 g | BrC1=CC=C(C=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)C(=O)OCC | C17H14BrNO4S
